US05262412
Step I: 2-(N-t-Butylsulfamoyl)phenylboronic Acid
By the method described in Example 10, Step B, N-t-butylbenzenesulfonamide [G. Lombardino, J. Org. Chem., 36, 1843 (1971)] was deprotonated with n-butyllithium, and the resulting dianion was reacted with triisopropyl borate and worked up with acid to give the title compound, which was used directly in the next step without further purification.

reactant | N-t-butylbenzenesulfonamide | C(C)(C)(C)NS(=O)(=O)C1=CC=CC=C1 | C10H15NO2S
reactant | n-butyllithium | C(CCC)[Li]
reactant | triisopropyl borate | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
product | 2-(N-t-Butylsulfamoyl)phenylboronic Acid | C(C)(C)(C)NS(=O)(=O)C1=C(C=CC=C1)B(O)O | C10H16BNO4S
